US07888364B2
115 mg of NBS was added to a solution of 200 mg of 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(3-hydroxypropylsulfonyl)benzamide and 169 mg of triphenylphosphine in 3 mL of dichloromethane at 0° C. The reaction mixture was stirred at 0˜5° C. for 1 h. The mixture was diluted with dichloromethane, washed with H2O, dried (MgSO4) and evaporated. Purified by prep TLC plate (60% ethyl acetate/hexane) to afford 4-(3-bromopropylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. 60 mg of 4-(3-bromopropylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide and 111 mg of cesium carbonate in 0.5 mL of DMF were heated to 100° C. in a sealed microwave reactor for 20 min. The reaction mixture was evaporated, and the product was purified on reverse phase HPLC to yield 4-(allylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 448.0 (M)+.

reactant | NBS | 115 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(3-hydroxypropylsulfonyl)benzamide | 200 mg | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)S(=O)(=O)CCCO | C21H18Cl2N2O4S
reactant | triphenylphosphine | 169 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(3-bromopropylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | BrCCCS(=O)(=O)C1=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)Cl | C21H17BrCl2N2O3S
